US05436140
To a solution of O-methoxymethyl-N-methyl-N-(2-nitrophenylthio)-β-hydroxytyrosine (20.0 g) in ethyl acetate (100 ml) was added diazomethane in diethyl ether (80 ml). After stirring for 10 minutes, the solvent was removed in vacuo. The residue was put on a silica gel column (MERCK 7734:500 g) and eluted with chloroform to give O-methoxymethyl-N-methyl-N-(2-nitrophenylthio)-β-hydroxytyrosine methyl ester. (threo isomer: 8.82 g, erythro isomer: 6.63 g)

reactant | O-methoxymethyl-N-methyl-N-(2-nitrophenylthio)-β-hydroxytyrosine | 20.0 g | COCOC1=CC=C(C([C@H](N(SC2=C(C=CC=C2)[N+](=O)[O-])C)C(=O)O)O)C=C1 | C18H20N2O7S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
product | O-methoxymethyl-N-methyl-N-(2-nitrophenylthio)-β-hydroxytyrosine methyl ester | COC([C@@H](N(SC1=C(C=CC=C1)[N+](=O)[O-])C)C(C1=CC=C(C=C1)OCOC)O)=O | C19H22N2O7S
